US07371743B2
(c) 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoic acid
Prepared analogously to Example 2d from methyl 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoate and sodium hydroxide in a solvent mixture of water and ethanol.

reactant | methyl 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoate | ClC=1C=C(C(=O)OC)C=CC1N1OCC=CC1 | C12H12ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1OCC=CC1 | C11H10ClNO3
